US08049016B2
Synthesis of 1-(cyclopropylmethyl)-3-(4-methyl-5-(5-methyl-1H-pyrazol-3-yl)thiazol-2-yl)imidazolidin-2-one
To a solution of 1-(5-acetyl-4-methylthiazol-2-yl)-3-(cyclopropylmethyl)-imidazolidin-2-one (0.28 g, 1.00 mmol) in N,N-dimethylacetamide (10 mL) was added N,N-dimethylacetamide dimethyl acetal (1.4 mL, 8.60 mmol). The reaction mixture was heated for 20 hours at 110° C., followed by the addition of hydrazine monohydrate (2.0 mL, 41.12 mmol). The reaction mixture was heated for another 10 minutes at 110° C. and concentrated in vacuo. The residue was washed with water and triturated with ethyl acetate and the title compound was obtained as a white solid in 71% yield (0.23 g): mp 231-233° C. (ethyl acetate); 1H NMR (300 MHz, DMSO-d6) δ 12.5 (s, 1H), 6.15 (s, 1H), 3.98-3.92 (m, 2H), 3.62-3.57 (m, 2H), 3.05 (d, J=7.2 Hz, 2H), 2.33 (s, 3H), 2.21 (s, 3H), 0.95-0.84 (m, 1H), 0.49-0.43 (m, 2H), 0.21-0.17 (m, 2H); 13C NMR (75 MHz, DMSO-d6) δ 155.8, 155.5, 144.4, 142.1, 139.9, 129.0, 102.5, 48.2, 42.5, 42.3, 16.9, 10.8, 9.3, 3.6; MS (ES+) m/z 318.2 (M+1).

reactant | 1-(5-acetyl-4-methylthiazol-2-yl)-3-(cyclopropylmethyl)-imidazolidin-2-one | 1.00 mmol, 0.28 g | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1CC1)=O)C | C13H17N3O2S
reactant | N,N-dimethylacetamide dimethyl acetal | 8.60 mmol, 1.4 mL | COC(C)(N(C)C)OC | C6H15NO2
reactant | hydrazine monohydrate | 41.12 mmol, 2.0 mL | O.NN
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 1-(cyclopropylmethyl)-3-(4-methyl-5-(5-methyl-1H-pyrazol-3-yl)thiazol-2-yl)imidazolidin-2-one | 71% yield | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C1=NNC(=C1)C)=O | C15H19N5OS
